US08541596B2
N,N-Bis(4-cyanobenzyl)-1H-benzo[d]imidazol-5-amine
The compound was synthesized starting from N1-Boc-benzimidazol-5-amine (233 mg; 1 mmol; 1 eq.), 4-bromomethylbenzonitrile (490 mg; 2.5 mmol; 2.5 eq.) and K2CO3 (345 mg; 2.5 mmol; 2.5 eq.) according to method 4; Yield: 0.176 g (48.4%); MS m/z: 364.2 [M+H]+; 1H-NMR (500 MHz, DMSO d6): δ 4.80 (s, 4H); 6.66-6.68 (m, 2H); 7.34 (d, 1H, 3J=8.7 Hz); 7.47 (d, 4H, 3J=8.3 Hz); 7.78 (d, 4H, 3J=8.3 Hz); 7.92 (s, 1H); 11.95 (br s, 1H); HPLC (METHOD [A]): rt 13.50 min (100%)

reactant | N1-Boc-benzimidazol-5-amine | 1 mmol, 233 mg, 1 eq. | C(=O)(OC(C)(C)C)N1C=NC2=C1C=CC(=C2)N | C12H15N3O2
reactant | 4-bromomethylbenzonitrile | 2.5 mmol, 490 mg, 2.5 eq. | BrCC1=CC=C(C#N)C=C1 | C8H6BrN
reactant | K2CO3 | 2.5 mmol, 345 mg, 2.5 eq. | C(=O)([O-])[O-].[K+].[K+]
product | N,N-Bis(4-cyanobenzyl)-1H-benzo[d]imidazol-5-amine | C(#N)C1=CC=C(CN(C2=CC3=C(NC=N3)C=C2)CC2=CC=C(C=C2)C#N)C=C1 | C23H17N5
